US05952534
contacting p-(2-methylbutyl)toluene or p-(2-methylbutenyl)toluene under dehydrocyclization conditions with a catalyst comprising supported chromium oxide modified with K2CO3 to produce 2,6-dimethylnaphthalene with simultaneous fragmentation of C12-alkylindanes or -indenes.

reactant | p-(2-methylbutyl)toluene | CC(CC1=CC=C(C=C1)C)CC | C12H18
reactant | p-(2-methylbutenyl)toluene | CC(=CC1=CC=C(C=C1)C)CC | C12H16
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
catalyst | chromium oxide | [O-2].[Cr+3].[O-2].[O-2].[Cr+3]
product | 2,6-dimethylnaphthalene | CC1=CC2=CC=C(C=C2C=C1)C | C12H12
